US09303000B2
In 3-neck 50 mL round-bottomed flask, 3-(1H-1,2,4-triazol-3-yl)-5-(trifluoromethyl)benzamide (0.5 g, 1 eq.) and POCl3 (2.0 mL, 4 eq.) was dissolved in DMF (15 mL, 15 Vol) and reaction mixture was stirred at 25° C. for 1-2 hr. The progress of the reaction was followed by TLC analysis on silica gel with 10% Methanol:dichloromethane as mobile phase and visualization with UV, SM Rf=0.35 and Product Rf=0.45. Reaction mixture was concentrated under reduced pressure to afford 0.1.2 g of crude compound. The crude reaction mixture was purified by column chromatography using silica 60/120 using Methanol: dichloromethane as mobile phase. The column (5×10 cm) was packed in dichloromethane and started eluting in Methanol in gradient manner starting with fraction collection (25-mL fractions) from 1.5% to 2.0% Methanol in dichloromethane. Compound started eluting with 1.5% Methanol in dichloromethane. Fraction containing such TLC profile was collected together to obtain pure 3-(1H-1,2,4-triazol-3-yl)-5-(trifluoromethyl)benzonitrile (500 mg), Yield (60%); Mass: (ES+) 238.1 (M+1).

reactant | 3-(1H-1,2,4-triazol-3-yl)-5-(trifluoromethyl)benzamide | 0.5 g, 1 eq. | N1N=C(N=C1)C=1C=C(C(=O)N)C=C(C1)C(F)(F)F | C10H7F3N4O
reactant | POCl3 | 2.0 mL, 4 eq. | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Methanol | CO | CH4O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 3-(1H-1,2,4-triazol-3-yl)-5-(trifluoromethyl)benzonitrile | 500 mg | N1N=C(N=C1)C=1C=C(C#N)C=C(C1)C(F)(F)F | C10H5F3N4
